US07105567B2
By the reaction and treatment in the same manner as in Example 2 using (4-cyanophenylmethyl)(4-octylphenyl)amine (3.65 g) and 2,6-diisopropylphenyl isocyanate (2.55 g) as starting materials, N-(4-cyanophenylmethyl)-N′-(2,6-diisopropylphenyl)-N-(4-octylphenyl)urea (0.49 g) was obtained.

reactant | (4-cyanophenylmethyl)(4-octylphenyl)amine | 3.65 g | C(#N)C1=CC=C(C=C1)CNC1=CC=C(C=C1)CCCCCCCC | C22H28N2
reactant | 2,6-diisopropylphenyl isocyanate | 2.55 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N-(4-cyanophenylmethyl)-N′-(2,6-diisopropylphenyl)-N-(4-octylphenyl)urea | 0.49 g | C(#N)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)C1=CC=C(C=C1)CCCCCCCC | C35H45N3O
